US08609675B2
Step N—Synthesis of ethyl 4-((6-acetyl-7-amino-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4o)
To a 20 mL scintillation vial containing ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4n, 113 mg, 0.144 mmol) was added EtOH (2 mL) followed by 4N HCl(aq). The resulting cloudy suspension was stirred at room temperature 1 hour, at which time the solution was now homogenous. The solvent was removed in vacuo and excess solvent was pumped off on high vacuum. The compound was taken on without further purification.

reactant | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | 0.144 mmol, 113 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)CC2CCC(CC2)C(=O)OCC)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C43H63N5O5Si2
reactant | HCl | 4N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | ethyl 4-((6-acetyl-7-amino-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | C(C)(=O)C=1C(=NC=2N(C1N)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)CC2CCC(CC2)C(=O)OCC | C29H31N5O3
